US07749992B2
Step 3. Preparation of Methyl 4-bromo-2-isopropoxycarbonylaminobenzoate
Add isopropyl chloroformate (104 mL, 104 mmol, 1.0 M in toluene) dropwise to a solution of methyl 2-amino-4-bromobenzoate (14.5 g, 63.0 mmol) and pyridine (10.3 mL, 126.0 mmol) in dichloromethane (210 mL) at room temperature under nitrogen and stir for 5.5 h. Pour the reaction into water (500 mL) and separate the layers. Extract the aqueous layer with dichloromethane (2×100 mL) and combine the organic extracts and wash with 2 N HCl, saturated sodium bicarbonate and brine (100 mL each), then dry over sodium sulfate, filter and remove the solvent under reduced pressure to afford the title compound as a pale orange solid (19.2 g, 96%)

reactant | isopropyl chloroformate | 104 mmol, 1.0 M, 104 mL | ClC(=O)OC(C)C | C4H7ClO2
reactant | methyl 2-amino-4-bromobenzoate | 63.0 mmol, 14.5 g | NC1=C(C(=O)OC)C=CC(=C1)Br | C8H8BrNO2
reactant | pyridine | 126.0 mmol, 10.3 mL | N1=CC=CC=C1 | C5H5N
reactant | water | 500 mL | O | H2O
solvent | dichloromethane | 210 mL | ClCCl | CH2Cl2
product | Methyl 4-bromo-2-isopropoxycarbonylaminobenzoate | 19.2 g, 96% | BrC1=CC(=C(C(=O)OC)C=C1)NC(=O)OC(C)C | C12H14BrNO4
